Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male who underwent a laparoscopic
Meckel's diverticulectomy and appendectomy by Dr. ___ on 
___
in the context of an episode of Meckel's diverticulities, 
managed
conservatively, in ___. The procedure and his hospital stay
was uncomplicated, and he was discharged home in good condition
on POD#1. At that time, he had been tolerating a regular diet 
and
passing gas.

He reports feeling well till POD#2, at which time he feels that
he stopped passing flatus, and began to feel some abdominal
discomfort. As he had not yet had a bowel movement, he attempted
a variety of OTC stool softeners and laxatives, without any
relief. He began to have increasing abdominal bloating and
decreased tolerance of POs. He reports that he had ___ episodes
of emesis after taking narcotic pain medications on an empty
stomach. Since effectively making himself NPO overnight, he
reports no currently nausea, but he is still passing no flatus,
and has some persistent bloating/discomfort. He reports no
fevers/chills, no CP/SOB, no headache/fatigue/malaise. He has
been voiding normally, and been able to ambulate without
difficulty.

ROS:
(+) per HPI
(-) Denies fever/chills, night sweats, unexplained weight
loss, fatigue/malaise/lethargy, trouble with sleep, pruritis,
jaundice, rashes, bleeding, easy bruising, headache, dizziness,
vertigo, syncope, weakness, paresthesias, hematemesis, melena,
BRBPR, dysphagia, chest pain, shortness of breath, cough, edema,
urinary frequency, urgency
 
Past Medical History:
Past Medical History: ___'s diverticulum with prior episode 
of Meckel's diverticulitis in ___ treated conservatively, 
s/p interval Meckel's diverticulectomy and appendectomy on 
___, seasonsal allergies

Past Surgical History: Laparoscopic Meckel's diverticulectomy 
and appendectomy (___), wisdom teeth removal
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Vitals: 97.3  85  ___  99%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, mildly + distended, minimally tender to palpation 
near
incision sites, no rebound/guarding, no palpable masses,
incisions healing well and clean/dry/intact with steri-strips in
place, no drainage/erythema/induration
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 99.1 98.5 71 119/68 16 100ra
Gen: NAD, AAOx3
Card: RRR
Lungs: CTA bil, no respiratory distress
Abd: soft, nontender, no rebound/guarding, mildly distended
Wound: CD&I, no erythema/induration, dsg in place over incision 
sites, c/d/i
Ext: no CCE
 
Pertinent Results:
___ 09:30AM BLOOD WBC-8.1 RBC-5.26 Hgb-16.0 Hct-44.9 MCV-85 
MCH-30.4 MCHC-35.6* RDW-13.2 Plt ___
___ 09:30AM BLOOD Neuts-78.0* Lymphs-13.6* Monos-6.5 
Eos-0.9 Baso-0.9
___ 09:30AM BLOOD Glucose-100 UreaN-8 Creat-0.8 Na-137 
K-4.4 Cl-96 HCO3-26 AnGap-19
___ 09:51AM BLOOD Lactate-1.0
 
Brief Hospital Course:
The patient presented to ___ on ___ and was admitted under 
the ___ Surgery Service for conservative management 
of a post-operative ileus. He recently underwent laparoscopic 
Meckel's diverticulectomy and appendectomy performed by Dr. 
___ on ___. The patient tolerated the procedure 
well and was discharged on ___ without issues; however, he 
returned with abdominal pain, distention, and no flatus.
 
Neuro: The patient's pain was well-controlled with IV pain 
medications initially before transitioning to oral pain 
medications once he tolerated POs.
 
CV: Vital signs were routinely monitored and the patient 
remained hemodynamically stable.
 
Pulm: The patient had no respiratory concerns during this 
admission.
 
GI: The patient was initially made NPO and given IV 
resuscitation fluids. An NG tube was deferred on this admission 
due to lack of nausea on presentation and patient refusal. He 
passed flatus and had a small liquid bowel movement on HD1; 
however, due to persistent distention, he was kept NPO on HD2. 
His diet was appropriately advanced to clears on HD2, and to 
regulars on HD3, which he tolerated well. At discharge, he was 
eating a regular diet with no nausea, passing flatus and stool.
 
GU: Foley catheter was not required on this admission, and the 
patient voided spontaneously.
 
ID: There were no concerns for infection on this admission.
 
PPX: The patient received subq heparin on this admission for 
DVT/PE prophylaxis.

At the time of discharge on HD3, the patient was tolerating a 
regular diet with no nausea, passing flatus and stool, voiding 
spontaneously, and ambulating independently. He has a follow-up 
appointment with Dr. ___ scheduled. All questions were 
answered prior to discharge.
 
Medications on Admission:
Oxycodone ___ mg q4hr PRN:pain, Tylenol ___ mg
q6hr PRN:pain, Colace 100 mg PO BID, Claritin PRN:allergies
 
Discharge Medications:
1. Ibuprofen 400-600 mg PO Q8H:PRN pain 
RX *ibuprofen 200 mg ___ tablet(s) by mouth every 8 hours Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Meckel's diverticulitis 
Post-operative ileus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were recently admitted to the ___ General Surgery Service 
at ___ for conservative management of a post-operative ileus 
following your recent laparoscopic Meckel's diverticulectomy and 
appendectomy. You were discharged when your pain was 
well-controlled and when your bowel function had returned. 
Please do not hesitate to call us with any questions or 
concerns.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 

site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
General Discharge Instructions:
1. Please get plenty of rest, continue to ambulate several times 

per day, and drink adequate amounts of fluids.  
2. Avoid lifting weights greater than ___ lbs or lifting that 
requires you to strain until you follow-up with your surgeon, 
who will instruct you further regarding activity restrictions.
3. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .
4. You may take your prescribed pain medication for moderate to 
severe pain.  You may switch to Tylenol or Extra Strength 
Tylenol for mild pain as directed on the packaging.  Please note 
that Percocet and Vicodin have Tylenol as an active ingredient 
so do not take these meds with additional Tylenol.
5. Take prescription pain medications for pain not relieved by 
tylenol.
6. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication if you are experiencing 
constipation. You may use a different over-the-counter stool 
softener if you wish.
7. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
8. Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Please call your doctor or nurse practitioner or return to the 
nearest ER if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 

or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
 
Followup Instructions:
___